US04442115
5-Fluoro-2-hydroxyacetophenone (20.0 g) was dissolved in concentrated sulphuric acid (150 ml), and the mixture was cooled to -20° C. A mixture of concentrated nitric acid (17.0 ml; s.g. 1.42) in concentrated sulphuric acid (18.0 ml) was then added to it, dropwise with stirring, keeping the temperature of the reaction mixture between -15° and -5° C. The reaction mixture was then allowed to warm up to -5° C. and was poured into iced water (2 liters). The yellow precipitated product was filtered off and recrystallised from ethanol to give 5-fluoro-2-hydroxy-3-nitroacetophenone (11.9 g), m.p. 87°-90° C.

reactant | 5-Fluoro-2-hydroxyacetophenone | 20.0 g | CC(=O)C1=C(C=CC(=C1)F)O | C8H7FO2
reactant | nitric acid | 17.0 ml | [N+](=O)(O)[O-] | HNO3
reactant | water | 2 liters | O | H2O
solvent | sulphuric acid | 150 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulphuric acid | 18.0 ml | S(O)(O)(=O)=O | H2O4S
product | 5-fluoro-2-hydroxy-3-nitroacetophenone | 11.9 g | CC(=O)C1=CC(=CC(=C1O)[N+](=O)[O-])F | C8H6FNO4
